US06028195
1-[(2-Methoxy-5-methyl-6-propylpyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine
Phenyl N-(2-methoxy-5-methyl-6-propylpyridin-3-yl)carbamate and 1-(3,5-dimethoxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl N-(2-methoxy-5-methyl-6-propylpyridin-3-yl)carbamate | COC1=NC(=C(C=C1NC(OC1=CC=CC=C1)=O)C)CCC | C17H20N2O3
reactant | 1-(3,5-dimethoxyphenyl)piperazine | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
product | 1-[(2-Methoxy-5-methyl-6-propylpyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | yield: 57% | COC1=NC(=C(C=C1NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)C)CCC | C23H32N4O4
